US06479670B1
1.1. Preparation of 4-(5-Methoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]oxepin-8-ylethynyl)-benzoic acid
20.06 g (55.04 mmol) of 4-(5-methoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]oxepin-8-ylethynyl)-benzoic acid methyl ester was dissolved in 100 ml of THF/ethanol (1/1) and treated with 8.81 g (4 eq.) of NaOH, dissolved in 50 ml of water. The reaction flask was kept in the dark and stirring continued for 42 h at room temperature. The mixture was then poured onto crushed ice/60 ml of 25% HCl, extracted twice with ethylacetate; the organic phase was washed with a small amount of water, dried over sodium sulfate, filtrated, and evaporated to dryness. Crystallization from hexane/ethylacetate yielded 18.90 g of the title product as pale yellow crystals of m.p. 205-206° C.

reactant | 4-(5-methoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]oxepin-8-ylethynyl)-benzoic acid methyl ester | 55.04 mmol, 20.06 g | COC(C1=CC=C(C=C1)C#CC=1C=CC2=C(OCCCC2(C)COC)C1)=O | C23H24O4
reactant | NaOH | 8.81 g, 4 eq. | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF ethanol | 100 ml | C1CCOC1.C(C)O
solvent | water | 50 ml | O | H2O
product | 4-(5-Methoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]oxepin-8-ylethynyl)-benzoic acid | 18.90 g | COCC1(C2=C(OCCC1)C=C(C=C2)C#CC2=CC=C(C(=O)O)C=C2)C | C22H22O4
